US07138529B2
To a stirred solution of α-phenylcyclopentaneacetic acid (422 mg; 2.0 mmol) and a catalytic amount of dry dimethylformamide (ca. 20 uL) in 5 mL of dry methylene chloride under nitrogen at room temperature was added oxalyl chloride (1.5 mL of 2.0 M solution in methylene chloride) dropwise. After 45 minutes, the mixture was concentrated in vacuo to give crude α-phenylcyclopentaneacetyl chloride which was used immediately for Step 2.

reactant | α-phenylcyclopentaneacetic acid | 2.0 mmol, 422 mg | C1(=CC=CC=C1)C(C(=O)O)C1CCCC1 | C13H16O2
reactant | dimethylformamide | ca. 20 uL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 2.0 M, 1.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | α-phenylcyclopentaneacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1CCCC1 | C13H15ClO
